datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7](=[C:8]([C:9]([H:25])([H:26])[H:27])[c:10]1[c:11]([H:28])[c:12]([H:29])[c:13]([H:30])[c:14]([H:31])[c:15]1[H:32])[c:16]1[c:17]([H:33])[c:18]([H:34])[c:19]([H:35])[c:20]([H:36])[c:21]1[H:37])([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:7]([C:6]([H:22])([H:23])[H:24])([C:8]([C:9]([H:25])([H:26])[H:27])[c:10]1[c:11]([H:28])[c:12]([H:29])[c:13]([H:30])[c:14]([H:31])[c:15]1[H:32])[c:16]1[c:17]([H:33])[c:18]([H:34])[c:19]([H:35])[c:20]([H:36])[c:21]1[H:37])[H:3],49.957
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[H:20]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:6])([H:7])[H:8].[H:9][H:20],18.706664
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])([O:7][O:8])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])([O:7][O:8][H:12])[H:14])[H:13])([H:9])([H:10])[H:11],123.428
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13]([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16])[H:7])([H:5])[H:6],34.0159
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20]([C:21]([C:22]([H:32])([H:33])[H:34])[c:23]1[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]1[H:39])([H:29])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:21]([C:20]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[c:23]1[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]1[H:39])[H:10])([H:8])[H:9],26.5266
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[S:7]=[C:8]([S:9][H:11])[H:10]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:10])[H:4].[S:7]=[C:8][S:9][H:11],28.7441
[C:0]1([H:3])([H:4])[S:1][S:2]1.[C:5]([H:6])([H:7])[H:8]>>[C:0]1([H:4])[S:1][S:2]1.[H:3][C:5]([H:6])([H:7])[H:8],19.79032
[C:0](=[S:1])([H:2])[H:3].[C:4]([H:5])([H:6])[H:7]>>[C:0](=[S:1])[H:3].[H:2][C:4]([H:5])([H:6])[H:7],-0.4184
[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])[C:4](=[C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])=[C:9]([C:10]([H:24])([H:25])[H:26])[C:11](=[C:12]([H:28])[H:29])[H:27])([H:19])[H:20])[H:18])[H:17])[H:13]>>[C:0](#[C:1][C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])=[C:5]([H:18])[C:6]([H:19])([H:20])[C:7]([C:8]([H:21])([H:22])[H:23])[C:9]1([C:10]([H:24])([H:25])[H:26])[C:11](=[C:12]([H:28])[H:29])[H:27])[H:13],132.047
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:35]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][H:35],18.706664
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9](#[C:10][C:11]=[S:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:11]([C:10]#[C:9][H:13])=[S:12],62.76
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:17])[H:23])[H:13])([H:11])[H:12],11.7152
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])([H:19])[H:20])([H:17])[H:18])[H:16])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:12])([H:10])[H:11],84.475
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10](=[C:11][C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:6])[C:11](=[C:10]([H:13])[H:14])[C:12]([H:15])([H:16])[H:17])([H:4])[H:5],15.1879
[C:0]([c:1]1[c:2]([H:13])[c:3]([H:14])[c:4]([H:15])[c:5]2[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]12)([H:11])[H:12].[O:20]>>[C:0]([c:1]1[c:2]([H:13])[c:3]([H:14])[c:4]([H:15])[c:5]2[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]12)([H:11])([H:12])[O:20],0.0
